US06710043B1
To a solution of N-(1-benzylpiperidin-4-yl)-N′-(4-fluorophenyl)urea (3.0 g) in a mixture of methanol (15 ml) and tetrahydrofuran (15 ml) was added palladium on carbon (10% w/w, 50% wet, 0.6 g), and the mixture was hydrogenated under atmospheric pressure of hydrogen for 8 hours. The catalyst was filtered off, and the solvents were evaporated under reduced pressure to give a residue, which was triturated with diisopropyl ether to give N-(piperidin-4-yl)-N′-(4-fluorophenyl)urea (1.97 g).

reactant | N-(1-benzylpiperidin-4-yl)-N′-(4-fluorophenyl)urea | 3.0 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)NC1=CC=C(C=C1)F | C19H22FN3O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 15 ml | CO | CH4O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
catalyst | palladium on carbon | 0.6 g | [Pd] | Pd
product | N-(piperidin-4-yl)-N′-(4-fluorophenyl)urea | 1.97 g | N1CCC(CC1)NC(=O)NC1=CC=C(C=C1)F | C12H16FN3O
